US04628057
Methyl (3RS)-3-(1H-tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate
In the same manner as described in Example 53, (3RS)-3-(1H-tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline (0.257 g), triethylamine (0.23 ml), carbon disulfide (0.05 ml), 70% ethanol (4 ml) and methyl iodide (0.055 ml) are reacted and treated. The product is crystallized from chloroform to give the title compound (75 mg), m.p. 203°-205° C. (decomp.).

reactant | (3RS)-3-(1H-tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline | 0.257 g | N1N=NN=C1C1NCC=2NC3=CC=CC=C3C2C1 | C12H12N6
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.05 ml | C(=S)=S | CS2
reactant | methyl iodide | 0.055 ml | CI | CH3I
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Methyl (3RS)-3-(1H-tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 75 mg | N1N=NN=C1C1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SC | C14H14N6S2
